US05441955
5-fluoro-6-(4-methylpiperazinyl)isatin
To a solution of 5,6-difluoroisatin (1.0 g, 5 mmol) in 50 mL of dimethyl sulfoxide was added N-methylpiperazine (5.47 g, 50 mmol). The mixture was stirred for 4 h at room temperature and the crude reaction mixture was diluted with ethyl acetate. The organic solution was washed with saturated sodium bicarbonate. The organic layers were separated and concentrated to give the title compound in 72% yield: mp 150° C. (dec); 1H NMR (300 MHz, DMSO-d6)δ 10.8 (br s, 1H), 7.3 (d, 1H), 6.4 (d, 1H), 2.25 (s, 3H), 2.2 (m, 4H), 2.1 (m, 4H).

reactant | 5,6-difluoroisatin | 5 mmol, 1.0 g | FC=1C=C2C(C(NC2=CC1F)=O)=O | C8H3F2NO2
reactant | N-methylpiperazine | 50 mmol, 5.47 g | CN1CCNCC1 | C5H12N2
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-6-(4-methylpiperazinyl)isatin | 72% yield | FC=1C=C2C(C(NC2=CC1N1CCN(CC1)C)=O)=O | C13H14FN3O2
